US07678787B2
10-[(2′-METHOXY-1,1′-BIPHENYL-4-YL)CARBONYL]-N-(PYRIDIN-3-YLMETHYL)-10,11-DIHYDRO-5H-PYRROLO[2,1-C][1,4]BENZODIAZEPINE-3-CARBOXAMIDE
The title compound was prepared according to the procedure of Example 6, Step D, from pyridin-3-yl-methylamine (0.515 mL, 5.057 mmol), 2,2,2-trichloro-1-{10-[(2′-methoxy-1,1′-biphenyl-4-yl)carbonyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-3-yl}ethanone (1.30 g, 2.41 mmol), triethylamine (0.738 mL, 5.30 mmol), dimethylsulfoxide (0.854 mL, 12.04 mmol) and acetonitrile (15 mL). The crude material was purified by flash column chromatography on silica gel Merck-60 using 4% methanol in dichloromethane as the eluant to give a light yellow solid. The solid was taken up in dichloromethane and precipitated by the addition of diethyl ether and ethyl acetate. The precipitate was collected by filtration and dried under reduced pressure to give the title compound (0.69 g, 54%) of as a white solid, m.p. 123-127° C.

reactant | pyridin-3-yl-methylamine | 5.057 mmol, 0.515 mL | N1=CC(=CC=C1)NC | C6H8N2
reactant | 2,2,2-trichloro-1-{10-[(2′-methoxy-1,1′-biphenyl-4-yl)carbonyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-3-yl}ethanone | 2.41 mmol, 1.30 g | ClC(C(=O)C1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)C3=C(C=CC=C3)OC)(Cl)Cl | C28H21Cl3N2O3
reactant | triethylamine | 5.30 mmol, 0.738 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | 12.04 mmol, 0.854 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 10-[(2′-METHOXY-1,1′-BIPHENYL-4-YL)CARBONYL]-N-(PYRIDIN-3-YLMETHYL)-10,11-DIHYDRO-5H-PYRROLO[2,1-C][1,4]BENZODIAZEPINE-3-CARBOXAMIDE | 0.69 g, 54% | COC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C(=CC2)C(=O)NCC=2C=NC=CC2 | C33H28N4O3
